Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
volume overload
 
Major Surgical or Invasive Procedure:
Upper endoscopy with variceal banding x 2

 
History of Present Illness:
___ yo M with ___ HCV, DM, and HCC s/p TACE in ___ and 
cyberknife in ___ who was transferred from OSH by request 
from family members.  Pt initially presented to OSH for weakness 
and altered mental status.  Per the daughter, she had gone to 
check on pt who was sleeping when his life alert bracelet went 
off, instructing him to check his BP.  When daughter tried to 
wake up the patient for BP check, she states he was "completely 
out of it."  He was able to try to communicate with her, but had 
significant difficulty and appeared weak, trying to say he 
"couldn't" get the BP cuff on.  Daughter called ambulance and pt 
was transported to OSH where BG was found to be 28.

OSH COURSE: ___ BG of 28 by EMT. He was given glucagon and 
dextrose in the field and taken to the OSH. His oral 
hyperglycemics (glipizide and metformin) were discontinued and 
he was started on Januvia. His blood sugars fluctuated for the 
first ___ hours of admission with eventual normalization. 
 
His work-up consisted of an x-ray which showed bilateral pleural 
effusions. An echocardiogram was performed but was pending at 
the time of transfer. His lab data was significant for a HCTof 
26 (___) which was stable from ___. Mildly elevated 
bilirubin of 2.3, albumin of 2.1, normal creatinine and 
unremarkable chem 7. 

Daughter requested transfer to ___ because she felt she was 
getting mixed messages from the doctors at ___ and did not agree 
with their work-up.  For example, they got an echo and told 
daughter the patient's heart "was a problem," but pt had no 
prior history of cardiac disease. He is followed at ___ for 
his liver disease. He had a recent hospitalization after a 
variceal bleed while in ___ requiring a total of 9 units of 
blood between the two hospitals. 

On the floor, pt states he does not remember the events leading 
to his hospitalization.  He was also disoriented to time, and 
thought he had only been in the hospital for one day. BG 
fingerstick on the floor was 253.

ROS: He currently denies CP or any other pain, chills, N/V, 
diarrhea, or constipation.  Denies SOB but states that sometimes 
he gets DOE.  Admits to dysphagia and a history of chills, but 
denies currently. Admits to ___ edema.

 
Past Medical History:
-HCV cirrhosis c/b Esophageal varices and Ascites
-NIDDM
-Hx Shingles
-Echo ___: Severe pulmonary hypertension with hypertrophied
and dilated right ventricle. Peserved biventricular systolic
function. Mild mitral regurgitation.

 
Social History:
___
Family History:
Reviewed and noncontributory for liver cancer.

 
Physical Exam:
ADMISSION EXAM
Vitals: Tc 98.1, BP 120/64, P63, RR, 16  sat 96% on RA
General: AAOX2, friendly male lying in hospital bed.
HEENT: EOMI, positive scleral icterus, MMM
Heart: RRR. no m/r/g, S1, S2
Lungs: decreased breath sounds at right lung base and extending 
___ecreased breath sounds at left lung base.  
Mild crackles throughout lung fields bilaterally.
Abdomen: soft, NT, distended, normoactive bowel sounds
Extremities: 3+ pitting edema in legs bilat extending up to 
thighs.  No UE edema.  2+ pulses in UE bilat but could not 
palpate ___ pulses.
Neurological: CN ___ intact, moves all extremities, no 
asterixis

DISCHARGE EXAM 
Vitals: Tc 98, Tm 98.2, 109/50, 61, 18, 96% RA
General: AAOX2, friendly male lying in hospital bed with feet 
propped up
HEENT: EOMI, no scleral icterus, MMM
Heart: RRR, no m/r/g, S1, S2
Lungs: decreased breath sounds bilaterally at bases.
Abdomen: soft, NT, distended, normoactive bowel sounds
Extremities: trace pitting edema in legs bilat (much improved).  
No UE edema.  2+ pulses in UE and ___ bilat.  ___ TTP bilat when 
squeezed
Neurological: CN ___ intact, moves all extremities
 
Pertinent Results:
ADMISSION LABS
___ 05:15AM BLOOD WBC-3.7* RBC-2.37* Hgb-8.5* Hct-25.5* 
MCV-108* MCH-36.1* MCHC-33.5 RDW-21.1* Plt Ct-52*
___ 05:15AM BLOOD Glucose-217* UreaN-17 Creat-0.9 Na-139 
K-3.4 Cl-98 HCO3-33* AnGap-11
___ 05:15AM BLOOD Calcium-8.7 Phos-2.3* Mg-2.0
___ 05:15AM BLOOD ALT-22 AST-50* AlkPhos-151* TotBili-2.9*

EGD ___
Indications: Anemia
History of GI bleeding and esophageal varices
Procedure: The procedure, indications, preparation and potential 
complications were explained to the patient, who indicated his 
understanding and signed the corresponding consent forms. A 
physical exam was performed. The patient was administered 
moderate sedation. Supplemental oxygen was used. The patient was 
placed in the left lateral decubitus position and an endoscope 
was introduced through the mouth and advanced under direct 
visualization until the third part of the duodenum was reached. 
Careful visualization of the upper GI tract was performed. The 
procedure was not difficult. The patient tolerated the procedure 
well. There were no complications. 
Findings: Esophagus:  
 Lumen: A sliding hiatal hernia was seen.  
 Mucosa: Localized erythematous mucosa was noted in the 
gastroesophageal junction.  
 Protruding Lesions 2 cords of grade II varices were seen in the 
lower third of the esophagus. The varices were not bleeding. 2 
bands were successfully placed.  
Stomach:  
 Mucosa: Segmental erythema with a reticular pattern and a 
friable mucosa of the mucosa were noted in the stomach body. 
These findings are compatible with gastritis.  
Duodenum: Normal duodenum. 
Impression: Gastritis with a friable mucosa (PHG?)
Hiatal hernia
Erythema in the gastroesophageal junction
Varices at the lower third of the esophagus (ligation) 
Recommendations: In hospital acre. PPI Rx, follow hematocrit and 
Tx as needed 
Additional notes: FINAL DIAGNOSES are listed in the impression 
section above. Estimated blood loss=zero. No specimens were 
taken for pathology. 
   
DISCHARGE LABS:
___ 04:40AM BLOOD WBC-3.8* RBC-2.58* Hgb-9.2* Hct-27.4* 
MCV-106* MCH-35.9* MCHC-33.7 RDW-21.7* Plt Ct-48*
___ 04:40AM BLOOD ___ PTT-52.3* ___
___ 04:40AM BLOOD Glucose-201* UreaN-13 Creat-0.9 Na-136 
K-4.2 Cl-98 HCO3-33* AnGap-9
___ 04:40AM BLOOD ALT-20 AST-42* AlkPhos-120 TotBili-3.6*
___ 04:40AM BLOOD Calcium-8.7 Phos-3.2 Mg-1.___ year old male with PMH HCV, DM, and HCC s/p TACE in ___ and 
cyberknife in ___ who was transferred from OSH with ___ 
edema, ascites, pleural effusions and recent episode of 
hypoglycemia.
  
# edema/ascites/effusions - Mr. ___ came from an outside 
hospital with volume overload with significant lower extremity 
edema, as well as bilateral pleural effusions and likely 
ascites. He improved with initial IV lasix, which was quickly 
switched to PO and he tolerated this well. His edema improved 
with diuresis, mobility, and elevation of his legs. At the time 
of discharge his lower extremity edema was significantly 
improved. He was discharged on Lasix 20mg PO daily. Can 
uptitrate as tolerated to home dose Lasix 60mg PO daily.
  
# anemia - Recent history of variceal bleed in ___ ___. He had repeat endoscopy, which showed 2 cords of grade 2 
varices which were banded successfully. There was no evidence of 
bleeding. His HCT was stable at 26, with a nadir of 23.8, and 
received one unit of PRBCs. He did not have any signs of active 
bleeding.
   
# HCC - pt has h/o HCC s/p TACE and cyberknife.  Last visit with 
onc was ___ at ___.  Pt has bony mets on ___ bone scan. 
Pt denied bone pain but c/o pain when walking, which, per 
oncologist is likely ___ to his problems with peripheral edema.  
Pt and onc have a visit scheduled for ___ and have discussed 
treatment options re: bony mets.  Pt has been offered palliative 
radiation for bony mets, but encouraged to manage other medical 
problems first, as they are likely the source of most of his 
symptoms right now.
   
# hypoglycemia/DM - He had issues with glycemic control and was 
found to be hypoglycemic prior to admission to the OSH. On 
admission to ___, this had resolved, and he was covered with 
ISS. 

 
Medications on Admission:
BENZONATATE - 100 mg Capsule - 1 Capsule(s) by mouth three times
a day as needed for prn
CIPROFLOXACIN - 250 mg Tablet - 1 Tablet(s) by mouth once a day
FUROSEMIDE [LASIX] - 40 mg Tablet - 1.5 Tablet(s) by mouth once 
a
day
GLIPIZIDE 10mg po BID
NADOLOL - 20 mg Tablet - 1 Tablet(s) by mouth once a day
RANITIDINE HCL -  (Prescribed by Other Provider) - 150 mg Tablet
- 1 Tablet(s) by mouth twice a day
SPIRONOLACTONE [ALDACTONE] - 25 mg Tablet - 1 Tablet(s) by mouth
twice a day
URSODIOL ___ 250] - 250 mg Tablet - 1 Tablet(s) by mouth three
times a day
ZOLPIDEM - 5 mg Tablet - 1 Tablet(s) by mouth at bedtime as
needed for insomnia may take 2 if needed. Do not take with 
ativan
(OTC) VITAMIN E - 400 unit Capsule - 1 Capsule(s) by mouth once 
a day

 
Discharge Medications:
1. benzonatate 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day) as needed for cough.
Disp:*90 Capsule(s)* Refills:*0*
2. nadolol 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
3. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
Disp:*60 Tablet(s)* Refills:*0*
4. spironolactone 25 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
Disp:*60 Tablet(s)* Refills:*0*
5. ursodiol 250 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).
Disp:*90 Tablet(s)* Refills:*0*
6. vitamin E 400 unit Capsule Sig: One (1) Capsule PO DAILY 
(Daily).
Disp:*30 Capsule(s)* Refills:*0*
7. ciprofloxacin 250 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
8. trazodone 50 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime) as 
needed for insomnia.
Disp:*15 Tablet(s)* Refills:*0*
9. furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
10. Humalog 100 unit/mL Solution Sig: sliding scale  
Subcutaneous four times a day.
Disp:*100 units* Refills:*0*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Fluid overload
Esophageal varices

Secondary Diagnoses:
Hepatitis C virus
Diabetes mellitus
Hepatocellular carcinoma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___,
  
You were sent to ___ from another hospital because your family 
was concerned about the care you were receiving.  You were 
initially admitted to that hospital because of low blood sugar, 
but during your stay there you developed swelling in your legs 
from the fluids you recieved.  You were transferred to ___, 
where you were started on a diuretic to remove the excess fluid 
from your legs.  You also had an upper endoscopy because of your 
history of GI bleeding, and they banded two varices.  Your leg 
swelling improved and you were discharged.
   
The following changes were made to your medications:
-CHANGE ambien to trazodone 25mg at night as needed for sleep
-STOP glipizide and metformin
-START Humalog insulin with meals and at bedtime, according to 
your sliding scale 
-DECREASE Lasix to 20mg by mouth daily, can increase back up to 
home dose of 60mg daily as tolerated
  
It was a pleasure meeting you and taking part in your care.
 
Followup Instructions:
___